US04097482
A mixture of 6-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]-pyridine hydrochloride (7.05 g; 37.2 mmoles), o-methoxycarbonylbenzyl bromide (9 g; 39.3 mmoles) and sodium carbonate (6.05 g; 57 mmoles) in dimethylformamide (100 cc) is stirred during 3 hours at 80° C. After cooling, the inorganic salts are filtered off and the filtrate is evaporated to dryness. The residue is dissolved in ether and the ether solution is washed with water and dried over sodium sulfate, after which the ether is evaporated off. The resulting yellow oil is treated with an equivalent amount of hydrogen chloride gas in ether solution. The hydrochloride is filtered off and recrystallized from isopropyl alcohol-diisopropyl ether (M.p. = 166° C. Yield: 53%).

reactant | 6-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]-pyridine hydrochloride | 37.2 mmoles, 7.05 g | Cl.CC1CC2=C(CN1)C=CS2
reactant | o-methoxycarbonylbenzyl bromide | 39.3 mmoles, 9 g | COC(=O)C1=C(CBr)C=CC=C1 | C9H9BrO2
reactant | sodium carbonate | 57 mmoles, 6.05 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | isopropyl alcohol diisopropyl ether | Yield: 53% | C(C)(C)O.C(C)(C)OC(C)C | InChI=1S/C6H14O.C3H8O/c1-5(2)7-6(3)4;1-3(2)4/h5-6H,1-4H3;3-4H,1-2H3
